US07825119B2
Synthesis of 2-tert-butyl-5-methyl-4,6-dihydroxy-pyrimidine:
A single-necked flask containing 80 ml of ethanol is cooled down to 0° C. by an ice bath, 4 g (55.6 mmoles) of sodium ethylate and 3.8 g (27.8 mmoles) of tert-butylcarbamidine hydrochloride are added. The reaction mixture is left to return to ambient temperature, then 5 ml (27.8 mmoles) of diethyl ester methylmalonate is added dropwise. Stirring is maintained at ambient temperature overnight. The ethanol is then condensed under reduced pressure (2 kPa). The crude product obtained is solubilized in a minimum amount of water (approximately 40 ml), then acidified at 0° C. with pure acetic acid until a pH comprised between 4 and 5 is achieved. The white precipitate formed is filtered, rinsed successively with water, ethyl ether and with pentane. Then the white powder obtained is dried over P2O5 under reduced pressure (0.2 kPa). 2.4 g of expected product is obtained.

reactant | ethanol | 80 ml | C(C)O | C2H6O
reactant | sodium ethylate | 55.6 mmoles, 4 g | CC[O-].[Na+]
reactant | tert-butylcarbamidine hydrochloride | 27.8 mmoles, 3.8 g | CC(C)(C)C(=N)N.Cl
reactant | water | approximately 40 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-tert-butyl-5-methyl-4,6-dihydroxy-pyrimidine | 2.4 g | C(C)(C)(C)C1=NC(=C(C(=N1)O)C)O | C9H14N2O2
